US07371747B2
A solution of methyl(1R/S,6R/S)-6-{[(4-fluorophenyl)sulfanyl]methyl}cyclohex-3-ene-1-carboxylate (656 mg, 2.34 mmol) in methanol (1.0 ml) and ethylene glycol dimethyl ether (5.0 ml) was treated with a 2 M aqueous solution of lithium hydroxide (6.0 ml). After stirring for 19 h, the reaction mixture was adjusted to pH 2 with a 2 M aqueous solution of hydrochloric acid and partitioned between water and ethyl acetate. After separating the organic phase, the aqueous phase was extracted with an additional portion of ethyl acetate. The combined extracts were washed with saturated aqueous sodium chloride solution and dried over anhydrous sodium sulfate. Removal of the solvent on a rotary evaporator provided (1R/S,6R/S)-6-{[(4-fluorophenyl)sulfanyl]methyl}cyclohex-3-ene-1-carboxylic acid as a golden-yellow syrup.

reactant | methyl(1R/S,6R/S)-6-{[(4-fluorophenyl)sulfanyl]methyl}cyclohex-3-ene-1-carboxylate | 2.34 mmol, 656 mg | FC1=CC=C(C=C1)SCC1CC=CCC1C(=O)OC | C15H17FO2S
reactant | lithium hydroxide | 6.0 ml | [OH-].[Li+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 1.0 ml | CO | CH4O
solvent | ethylene glycol dimethyl ether | 5.0 ml | COCCOC | C4H10O2
product | (1R/S,6R/S)-6-{[(4-fluorophenyl)sulfanyl]methyl}cyclohex-3-ene-1-carboxylic acid | FC1=CC=C(C=C1)SCC1CC=CCC1C(=O)O | C14H15FO2S
